US06197975B1
Step 8.2B {2-[2-(3,5-dimethylphenyl)-5-(5-methyltetrazol-1-yl)-1H-indol-3-yl]-ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl) butyl]carbamic acid tert-butyl ester
To a solution of {2-[5-acetylamino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl] carbamic acid tert-butyl ester (30 mg in 1.5 mL dry methylene chloride) was added in order 22.8 mg triphenylphosphine, 6.3 mg imidazole, 20.7 mg zinc azide(pyridine complex) and 0.014 mL diethyl azodicarboxylate and the mixture stirred at room temperature. After 4 hours additional portions of triphenylphosphine (11.3 mg), imidazole (3.5 mg), zinc azide•2 pyridine (11 mg) and diethyl azodicarboxylate (0.007 mL) were added and the mixture heated to reflux on an oil bath. After an additional 3 hours reaction time, the pot was cooled to room temperature and the reaction mixture applied directly to a silica gel column for purification by flash chromatography (hexane:ethyl acetate, 2:3) to give the title compound (26 mg).

reactant | {2-[5-acetylamino-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl)butyl] carbamic acid tert-butyl ester | 1.5 mL, 30 mg | C(C)(C)(C)OC(N(CCCCC1=C(C(=C(C=C1)N)S(=O)(=O)C)S(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)NC(C)=O)C1=CC(=CC(=C1)C)C)=O | C37H48N4O7S2
reactant | triphenylphosphine | 22.8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 6.3 mg | N1C=NC=C1 | C3H4N2
reactant | diethyl azodicarboxylate | 0.014 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 11.3 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 3.5 mg | N1C=NC=C1 | C3H4N2
reactant | diethyl azodicarboxylate | 0.007 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | {2-[2-(3,5-dimethylphenyl)-5-(5-methyltetrazol-1-yl)-1H-indol-3-yl]-ethyl}-[4-(4-amino(dimethanesulfonyl)phenyl) butyl]carbamic acid tert-butyl ester | 26 mg | C(C)(C)(C)OC(N(CCCCC1=C(C(=C(C=C1)N)S(=O)(=O)C)S(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)N1N=NN=C1C)C1=CC(=CC(=C1)C)C)=O | C37H47N7O6S2
